US07220862B2
(±)-5-(2-Methoxycarbonyl-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-ethyl)-indazole-1-carboxylic acid tert-butyl ester
A solution of 5-(2-amino-2-methoxycarbonyl-ethyl)-indazole-1-carboxylic acid tert-butyl ester (307 mg, 0.96 mmol), N,N-disuccinimidyl carbonate (246 mg, 0.961 mmol), and N,N-diisopropylethylamine (0.67 mL, 3.84 mmol) in methylene chloride was stirred for 30 min at room temperature. 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (238 mg, 1.03 mmol) was added and the reaction mixture was stirred at room temperature for 16 h. The solvent was evaporated and the residue subjected to flash chromatography using methylene chloride/methanol/triethylamine (93:5:2) as eluent, giving the product (259 mg, 47%). 1H-NMR (CDCl3, 300 MHz) δ 8.13–8.10 (m, 2H), 7.48 (br s, 1H), 7.31 (dd, J=8.8, 1.6 Hz, 1H), 7.16 (t, J=8.0 Hz, 1H), 7.05 (d, J=7.0 Hz, 1H), 6.94 (t, J=7.7 Hz, 1H), 6.82 (s, 1H), 6.66 (d, J=8.0 Hz, 1H), 4.98 (d, J=7.7 Hz, 1H), 4.87–4.81 (m, 1H), 4.58–4.49 (m, 1H), 4.26 (s, 2H), 4.05–3.97 (m, 2H), 3.74–3.67 (m, 4H), 3.29–3.23 (m, 2H), 2.93–2.84 (m, 2H), 1.76–1.62 (m, 1H), 1.70 (s, 9H), 1.48–1.42 (m, 1H). Mass spec.: 577 (MH)+.

reactant | 5-(2-amino-2-methoxycarbonyl-ethyl)-indazole-1-carboxylic acid tert-butyl ester | 0.96 mmol, 307 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)CC(C(=O)OC)N | C16H21N3O4
reactant | N,N-disuccinimidyl carbonate | 0.961 mmol, 246 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | N,N-diisopropylethylamine | 3.84 mmol, 0.67 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 1.03 mmol, 238 mg | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-5-(2-Methoxycarbonyl-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-ethyl)-indazole-1-carboxylic acid tert-butyl ester | 259 mg, 47% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)CC(NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C(=O)OC | C30H36N6O6
